US06462042B1
Intermediate 10 2-Isopropylsuccinic acid 1-ethyl Ester
n-Butyllithium (1.6 M in hexane, 20.16 ml) was added to a stirred solution of diisopropylamine (4.52 ml) in tetrahydrofuran (60 ml) at −78° C. After 15 min, ethyl isovalerate (4.03 ml) was added and the reaction left for 1 h, before tert-butyl bromoacetate (4.78 ml) was added and the reaction allowed to warm to 0° C. After 12 h water (10 ml) was added and the solvent removed in vacuo. The resulting slurry was extracted with ethyl acetate (3×20 ml), and the combined organic extracts washed with water (2×50 ml), brine (50 ml), dried over magnesium sulphate (2 g), and the solvent removed in vacuo to yield a brown oil. The oil was dissolved in dichloromethane (60 ml) and trifluoroacetic acid (12 ml) was added and the reaction stirred for 12 h. The reaction was evaporated in vacuo and the residue azeotroped with heptane to dryness. The residue was dissolved in aqueous sodium hydroxide (2M, 40 ml) and washed with dichloromethane (2×10 ml), the aqueous layer acidified with hydrochloric acid (2M) and extracted with ethyl acetate (3×10 ml). The combined ethyl acetate extracts were washed with water (10 ml) and brine (10 ml), dried over magnesium sulphate (2 g) and evaporated to give the title compound as a brown oil (4.5 g).

reactant | n-Butyllithium | 1.6 M, 20.16 ml | C(CCC)[Li]
reactant | diisopropylamine | 4.52 ml | C(C)(C)NC(C)C | C6H15N
reactant | ethyl isovalerate | 4.03 ml | C(CC(C)C)(=O)OCC | C7H14O2
reactant | tert-butyl bromoacetate | 4.78 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | trifluoroacetic acid | 12 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | 2-Isopropylsuccinic acid 1-ethyl Ester | 4.5 g | C(C)OC(C(CC(=O)O)C(C)C)=O | C9H16O4
